US06660736B2
(5-(4-Fluoro-benzyloxy)-2-(3,3,3-trifluoro-2-methoxy-propyl)-isoindole-1,3-dione
To a suspension of sodium hydride (45 mg, 1.0 mmol) in tetrahydrofuran (8 mL) was added 5-(4-fluoro-benzyloxy)-2-(3,3,3-trifluoro-2-hydroxy-propyl)-isoindole-1,3-dione (360 mg, 0.9 mmol) at room temperature and then iodomethane (159 mg, 1.1 mmol) was added and then after 14 h, water was added. The mixture was then extracted with ethylacetate and the combined organic extracts washed with water, brine and then dried over sodium sulfate. Filtration and evaporation gave a residue which was purified by chromatography (SiO2, hexane-EtOAc 3:1) to afford the title compound (120 mg, 32%) as a white solid. MS: m/e=398.4 (M+H+).

reactant | sodium hydride | 1.0 mmol, 45 mg | [H-].[Na+]
reactant | 5-(4-fluoro-benzyloxy)-2-(3,3,3-trifluoro-2-hydroxy-propyl)-isoindole-1,3-dione | 0.9 mmol, 360 mg | FC1=CC=C(COC=2C=C3C(N(C(C3=CC2)=O)CC(C(F)(F)F)O)=O)C=C1 | C18H13F4NO4
reactant | iodomethane | 1.1 mmol, 159 mg | IC | CH3I
reactant | water | O | H2O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 5-(4-Fluoro-benzyloxy)-2-(3,3,3-trifluoro-2-methoxy-propyl)-isoindole-1,3-dione | 120 mg, 32% | FC1=CC=C(COC=2C=C3C(N(C(C3=CC2)=O)CC(C(F)(F)F)OC)=O)C=C1 | C19H15F4NO4
